US08034895B2
Synthesis of 2-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-5-[(5-nitro-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (R1=NEt2; R2═NO2)
5-Nitrothiophene-2-carbaldehyde (23 mg) was mixed in toluene under nitrogen at 0° C. with DABCO (16 mg), TiCl4 in solution in toluene (146 μL) and 2-amino-5-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (56 mg) and refluxed for seven hours. The reaction affords a purple-grey powder (53 mg, 72%) after purification by flash chromatography. 1H-NMR (300 MHz, [D] acetone): δ=8.55 (s, 1H), 8.36 (s, 1H), 8.06 (d, 1H, 3J=4.3 Hz), 7.66 (d, 1H, 3J=4.4 Hz), 7.55 (d, 1H, 3J=4.6 Hz), 6.19 (d, 1H, 3J=4.6 Hz), 4.36 (q, 2H, 3J=7.3 Hz), 4.25 (q, 2H, 3J=7.1 Hz), 3.55 (q, 4H, 3J=7.5 Hz), 1.39 (t, 3H, 3J=7.1 Hz), 1.34 (t, 3H, 3J=7.2 Hz), 1.28 (t, 6H, 3J=7.1 Hz). 13C-NMR (300 MHz, [D] acetone): δ=173.0, 167.5, 164.1, 162.9, 149.7, 143.7, 132.9, 131.6, 131.3, 130.2, 130.1, 129.7, 129.1, 127.6, 114.0, 104.9, 61.4, 60.2, 39.2, 14.2, 13.8, 10.8. +TOF-MS: m/z 563.10838. Calculated for C24H26O6N4S3 563.10872.

reactant | 5-Nitrothiophene-2-carbaldehyde | 23 mg | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
reactant | DABCO | 16 mg | C1CN2CCN1CC2 | C6H12N2
reactant | 2-amino-5-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | 56 mg | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC(=CC1)N(CC)CC)N | C19H25N3O4S2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 146 μL | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | 2-[(5-diethylamino-thiophen-2-ylmethylene)-amino]-5-[(5-nitro-thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | 53 mg, 72% | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC(=CC1)[N+](=O)[O-])N=CC=1SC(=CC1)N(CC)CC | C24H26N4O6S3
